US08314253B2
1.1 Tricyclo[6.2.2.02,7]dodeca-4,9-diene-3,6-dione
A solution of 40 g of 1,4-benzoquinone and 35 mL of 1,3-cyclohexadiene in 90 mL of benzene was stirred in a closed vessel for 3 days at rt. The reaction mixture was concentrated and the residue was crystallized in EtOH to obtain 57 g of the desired compound as mixture of stereoisomers as greenish solid.

reactant | 1,4-benzoquinone | 40 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1,3-cyclohexadiene | 35 mL | C1=CC=CCC1 | C6H8
solvent | benzene | 90 mL | C1=CC=CC=C1 | C6H6
product | Tricyclo[6.2.2.02,7]dodeca-4,9-diene-3,6-dione | 57 g | C12C3C(C=CC(C3C(C=C1)CC2)=O)=O | C12H12O2
